### PR TITLE
chore: miscellaneous cleanup

### PR DESCRIPTION
**Pull request by vihdzp**
No new mathematics here, just style cleanups and addressing comments.

### CODE REVIEW

File: CombinatorialGames/Game/IGame.lean [hunk 1]
```diff
@@ -1398,8 +1400,9 @@ private theorem invRec' {x : IGame} (hx : 0 < x)
   on_goal 5 => apply left₂
   on_goal 9 => apply right₁
   on_goal 13 => apply right₂
-  any_goals simpa [inv_eq hx, InvTy.val]
+  any_goals simp [inv_eq hx, InvTy.val]
   all_goals first |
+    exact by assumption |
```
Comment (tristan-f-r) [inline CombinatorialGames/Game/IGame.lean:1405]: I'm confused by what the motivation for this change was.

File: CombinatorialGames/Game/Specific/Poset.lean [hunk 2]
```diff
@@ -72,10 +72,9 @@ theorem posetRel_univ_of_posetRel_top_compl {α : Type*} [PartialOrder α] [Orde
 theorem wellFounded_posetRel [WellQuasiOrderedLE α] : @WellFounded (Set α) (· ≺ ·) := by
   rw [WellFounded.wellFounded_iff_no_descending_seq]
   refine ⟨fun ⟨f, hf⟩ ↦ ?_⟩
-  have hf' := hf -- Is there a way to make `choose` not delete my hypothesis?
-  choose g hg using hf
+  choose g hg using id hf
```
Comment (tristan-f-r) [inline CombinatorialGames/Game/Specific/Poset.lean:75]: [How does this work???]

**Review by tristan-f-r — APPROVED** [review]
Just two questions.

File: CombinatorialGames/Game/IGame.lean (hunk 1 above)
Comment (vihdzp) [reply CombinatorialGames/Game/IGame.lean:1405]: We had a `set_option` disabling the unnecessary simpa linter, rewriting the code like this means we don't need it anymore.

File: CombinatorialGames/Game/Specific/Poset.lean (hunk 2 above)
Comment (vihdzp) [reply CombinatorialGames/Game/Specific/Poset.lean:75]: I learned about this here: https://github.com/leanprover-community/mathlib4/pull/27225
